US09290485B2
c) tert-Butyl 5-((1-((3-chloroquinolin-6-yl)methyl)-1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-ylcarbamate
A solution of tert-Butyl 5-((1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-ylcarbamate (145 mg, 0.421 mmol), (3-Chloroquinolin-6-yl)methyl methanesulfonate (143 mg, 0.421 mmol 80%) and K2CO3 (291 mg, 2.105 mmol) in Acetone (3 ml) was stirred for 20 h at 50° C. The reaction was quenched with H2O and extracted twice with DCM. The organic layer was dried with Na2SO4, filtered and evaporated to dryness to afford crude title compound. The crude product was purified by preparative HPLC (Macherey-Nagel Nucleosil 250×40 mm, 5 to 100% ACN and 0.1% TFA, flow 40 ml/min) to afford pure title compound. MS (Method V) [M+H]+=521.4.

reactant | tert-Butyl 5-((1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-ylcarbamate | 0.421 mmol, 145 mg | N1N=CC(=C1)C(=O)NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C17H23N5O3
reactant | (3-Chloroquinolin-6-yl)methyl methanesulfonate | 0.421 mmol, 143 mg | CS(=O)(=O)OCC=1C=C2C=C(C=NC2=CC1)Cl | C11H10ClNO3S
reactant | K2CO3 | 2.105 mmol, 291 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | Acetone | 3 ml | CC(=O)C | C3H6O
product | tert-Butyl 5-((1-((3-chloroquinolin-6-yl)methyl)-1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-ylcarbamate | ClC=1C=NC2=CC=C(C=C2C1)CN1N=CC(=C1)C(=O)NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C27H29ClN6O3
